US09399623B2
6-Chloro-2-pyrrolidin-1-yl-quinoline-5-carboxylic acid ((1S,3S)-1-hydroxy-3-methyl-cyclohexylmethyl)-amide (2)
The title compound was synthesized according to the procedure described in example 1 using 2,6-Dichloro-quinoline-5-carboxylic acid ((1S,3S)-1-hydroxy-3-methyl-cyclohexyl methyl)-amide and pyrrolidine. 1H NMR (400 MHz, DMSO-d6): δ 8.50 (t, J=6.01 Hz, 1H), 7.80 (d, J=9.22 Hz, 1H), 7.47-7.54 (m, 2H), 6.96 (d, J=9.21 Hz, 1H), 4.16 (s, 1H), 3.51-3.53 (m, 4H), 3.26-3.28 (m, 2H), 1.97-1.98 (m, 4H), 1.71-1.73 (m, 1H), 1.45-1.61 (m, 6H), 1.00-1.07 (m, 1H), 0.83-0.84 (m, 3H), 0.73-0.79 (m, 1H). m/z: 402.2 [M+H]+

reactant | 2,6-Dichloro-quinoline-5-carboxylic acid ((1S,3S)-1-hydroxy-3-methyl-cyclohexyl methyl)-amide | O[C@@]1(C[C@H](CCC1)C)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl | C18H20Cl2N2O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 6-Chloro-2-pyrrolidin-1-yl-quinoline-5-carboxylic acid ((1S,3S)-1-hydroxy-3-methyl-cyclohexylmethyl)-amide | O[C@@]1(C[C@H](CCC1)C)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)N1CCCC1 | C22H28ClN3O2
